US07230007B2
b) 3-Chlorocarbonyl-1-(quinolin-2-yl)-1H-pyrrolo[2,3-b]pyridine hydrochloride
0.606 cm3 (6.91 mmol) of oxalyl chloride was added, at a temperature in the region of 20° C., to 1.0 g (3.46 mmol) of 1-(quinolin-2-yl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid in suspension in 30 cm3 of dichloromethane. After stirring at a temperature in the region of 20° C. for 2 h, the reaction mixture was concentrated to dryness under reduced pressure (2.7 kPa) and the residue was used directly in the following stage.

reactant | oxalyl chloride | 6.91 mmol, 0.606 cm3 | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-(quinolin-2-yl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid | 3.46 mmol, 1.0 g | N1=C(C=CC2=CC=CC=C12)N1C=C(C=2C1=NC=CC2)C(=O)O | C17H11N3O2
solvent | dichloromethane | 30 cm3 | ClCCl | CH2Cl2
product | 3-Chlorocarbonyl-1-(quinolin-2-yl)-1H-pyrrolo[2,3-b]pyridine hydrochloride | Cl.ClC(=O)C1=CN(C2=NC=CC=C21)C2=NC1=CC=CC=C1C=C2 | InChI=1S/C17H10ClN3O.ClH/c18-16(22)13-10-21(17-12(13)5-3-9-19-17)15-8-7-11-4-1-2-6-14(11)20-15;/h1-10H;1H
